US08604069B2
(A-79-2) 5-(4-Chloro-2-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valeric acid
Methyl 5-(4-chloro-2-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valerate (72.5 mg) and acetic acid (0.725 mL) were mixed. To the mixture was added 48 w/v % hydrobromic acid (0.363 mL) at RT. The mixture was stirred at 60° C., and then to the reaction mixture was added sodium acetate (287 mg) at ice temperature. The mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: methanol/chloroform/acetic acid=1/20/0.05) to give the title compound (49.1 mg). The specific optical rotation value of the title compound was [α]D25=+32.0° (c=1.00, methanol). The title compound was analyzed using a chiral column. The retention time of the title compound was 26.8 min., and the optical purity thereof was 94.8% ee.

reactant | Methyl 5-(4-chloro-2-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valerate | 72.5 mg | ClC1=CC(=C(C=C1)NC(=O)CC(CCC(=O)OC)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)(C)C)C | C29H39ClN2O4
reactant | hydrobromic acid | 0.363 mL | Br | BrH
reactant | sodium acetate | 287 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 0.725 mL | C(C)(=O)O | C2H4O2
product | 5-(4-Chloro-2-methylphenylcarbamoyl)-4-{4-cyclopropyl-5-[3-(2,2-dimethylpropyl)cyclobutyl]isoxazol-3-yl}valeric acid | 49.1 mg | ClC1=CC(=C(C=C1)NC(=O)CC(CCC(=O)O)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)(C)C)C | C28H37ClN2O4
